US07429597B2
(d) 4-chloro-6-methyl-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 2b or 2c from 6-methyl-4-oxo-3,4-dihydro-quinazoline-7-carboxylic acid, thionyl chloride, 2,5-dihydropyrrole, sodium hydroxide solution and dichloromethane.

reactant | 6-methyl-4-oxo-3,4-dihydro-quinazoline-7-carboxylic acid | CC=1C=C2C(NC=NC2=CC1C(=O)O)=O | C10H8N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dihydropyrrole | N1CC=CC1 | C4H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-6-methyl-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)C)C(=O)N1CC=CC1 | C14H12ClN3O
